US06972340B2
2,6-dimethoxy-N,N-dimethylbenzamide
A mixture of 2,6-dimethoxybenzoic acid (102 mg, 0.56 mmol), dimethylamine hydrochloride (91 mg, 1.12 mmol), 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (234 mg, 0.73 mmol) and diisopropylethylamine (390 μL, 2.24 mmol) in DMF (1 mL) was stirred at ambient temperature overnight. The reaction mixture was taken up in ethyl acetate (50 mL) and aqueous. NaHCO3(50 mL). The organic phase was washed with brine (2×50 mL), dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified on silica gel eluting with ethyl acetate to provide titled compound (66 mg). MS (APCI(+)) m/e 210 (M+H)+.

reactant | 2,6-dimethoxybenzoic acid | 0.56 mmol, 102 mg | COC1=C(C(=O)O)C(=CC=C1)OC | C9H10O4
reactant | dimethylamine hydrochloride | 1.12 mmol, 91 mg | Cl.CNC
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.73 mmol, 234 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 2.24 mmol, 390 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2,6-dimethoxy-N,N-dimethylbenzamide | 66 mg | COC1=C(C(=O)N(C)C)C(=CC=C1)OC | C11H15NO3
